US04244952
A mixture of 5.1 g of 2-phenyl-5,6,7,8-tetrahydroimidazo[2',1':2,3]thiazolo[5,4-c]pyridine, 10 g of 10% palladium carbon and 150 ml of mesitylene was refluxed with heating for 19 hours. After the catalyst was filtered off, the solvent was distilled off. To the residue was added n-hexane and crystals were filtered off. The crude crystals were recrystallized from ethyl acetate to give 2.7 g of 2-phenylimidazo[2',1':2,3]thiazolo[5,4-c]pyridine, melting at 183°-185° C.

reactant | 2-phenyl-5,6,7,8-tetrahydroimidazo[2',1':2,3]thiazolo[5,4-c]pyridine | 5.1 g | C1(=CC=CC=C1)C=1N=C2SC=3CNCCC3N2C1 | C14H13N3S
catalyst | palladium carbon | 10 g | [C].[Pd]
solvent | mesitylene | 150 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-phenylimidazo[2',1':2,3]thiazolo[5,4-c]pyridine | 2.7 g | C1(=CC=CC=C1)C=1N=C2SC3=CN=CC=C3N2C1 | C14H9N3S
